US05002949
5-Bromo-N-[[(5-bromo-3-pyridinyl)methyl]amino]-2-methyl-4,6-pyrimidinediamine
To a mixture of N-[[(5-bromo-3-pyridinyl)methyl]amino]-2-methyl-4,6-pyrimidinediamine (1.00 g, 3.40 mmol) in carbon tetrachloride (50 mL) at 23° C. was added N-bromosuccinimide (0.61 g, 3.90 mmol). The mixture was stirred for 1.5 hours at 23° C. and then filtered. The isolated solid was purified by flash chromatography (silica gel, 1:1 EtOAc:CHCl3 then 20% MeOH in EtOAc as eluants) and two recrystallizations from methanol to provide the title compound (376 mg, 1.01 mmol, 30%): mp 221°-222° C., Rf 0.69 (20% MeOH in EtOAc); 1H NMR (DMSO-D6, 400 MHz)δ8.54 (d, J=2 Hz, 1H), 8.50 (d, J=2 Hz, 1H), 7.93 (m, 1H), 7.09 (t, J=6 Hz, 1H), 6.39 (s, 2H), 4.51 (d, J=6 Hz, 2H), 2.13 (s, 3H); IR (KBr) 3480, 3300 (NH), 2900-3150 (CH), 1650, 1600 (C=C, C=N) cm-1 ; mass spectrum m/e 375 (M+, 45%), 373 (M+, 84%), 371 (M+, 44%), 292 (C11H11BrN5, 54%), 185 (C6H6BrN2, 50%).

reactant | N-[[(5-bromo-3-pyridinyl)methyl]amino]-2-methyl-4,6-pyrimidinediamine | 3.40 mmol, 1.00 g | BrC=1C=C(C=NC1)CNNC1=NC(=NC(=C1)N)C | C11H13BrN6
reactant | N-bromosuccinimide | 3.90 mmol, 0.61 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-N-[[(5-bromo-3-pyridinyl)methyl]amino]-2-methyl-4,6-pyrimidinediamine | 1.01 mmol, 376 mg, 30% | BrC=1C(=NC(=NC1N)C)NNCC=1C=NC=C(C1)Br | C11H12Br2N6
